US07402608B2
A mixture of anhydrous K2CO3 (3.2 g, 23.2 mmol, 5 eq) and 18-crown-6 (azetroped several times with toluene) (122 mg, 0.464 mmol, 10 mol %) in dry toluene (4 ml), under nitrogen, was heated to reflux and then treated, dropwise, over 40 min, with a solution of N-(4-Methoxy-benzyl)-N-(2-methoxycarbonyl-ethyl)-malonamic acid methyl ester. After 7 h at reflux the reaction was diluted with water (4 ml) and toluene (4 ml), then cooled to 0° and carefully acudified to pH 1.7 with 0.1N HCl. The mixture was then extracted several times with CH2Cl2 (3×80 ml) and the combined organics dried and evaporated to a brown oil (1.33 g). The brown oil was treated with 10% aqueous oxalic acid and heated to reflux for 6.5 h. The mixture was then extracted repratedly with CH2Cl2 and the combined organics dried and evaporated to a dirty yellow oil (1.03 g). The crude material was purified on silica gel using (CH2Cl2:MeOH=30:1) as eluent to give 1-(4-Methoxy-benzyl)-piperidine-2,4-dione as a pale brown solid (750 mg, 69%); (300 MHz, CDCl3) 2.52 (t, J=5.7 HZ, 2H), 3.41 (s, 2H), 3.47 (t, J=5.7 Hz, 2H), 3.80 (s,3H), 4.62 (s, 2H), 6.16-6.88 (m, 2H), 7.20 (m, 2H).

reactant | K2CO3 | 23.2 mmol, 3.2 g, 5 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 0.464 mmol, 122 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | N-(4-Methoxy-benzyl)-N-(2-methoxycarbonyl-ethyl)-malonamic acid methyl ester | COC(CC(=O)N(CCC(=O)OC)CC1=CC=C(C=C1)OC)=O | C16H21NO6
reactant | HCl | 0.1N | Cl | ClH
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 ml | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Methoxy-benzyl)-piperidine-2,4-dione | 750 mg, 69% | COC1=CC=C(CN2C(CC(CC2)=O)=O)C=C1 | C13H15NO3
